* bfit macromodel for cell 'th22' (stdcell2bfit: per-FET gate-programmed conductances)
* inputs=A,B,Y  output=None  rails=VDD/VSS  (4 NMOS, 4 PMOS)
.subckt th22 A B Y VDD VSS PARAMS: vthr=0.4 vsup=3.3 ron=1000 gm0=1e-9 rfloat=1e9 cin=2f cint=0.5f
Cin_A A VSS {cin}
Cin_B B VSS {cin}
Cin_Y Y VSS {cin}
BMPA N1 VDD I={ (IF((vsup-V(A))>vthr,((vsup-V(A)-vthr)/(vsup-vthr))*((vsup-V(A)-vthr)/(vsup-vthr))/ron,0)+gm0)*(V(N1)-V(VDD)) }
BMPB X N1 I={ (IF((vsup-V(B))>vthr,((vsup-V(B)-vthr)/(vsup-vthr))*((vsup-V(B)-vthr)/(vsup-vthr))/ron,0)+gm0)*(V(X)-V(N1)) }
BMNA N2 VSS I={ (IF(V(A)>vthr,((V(A)-vthr)/(vsup-vthr))*((V(A)-vthr)/(vsup-vthr))/ron,0)+gm0)*(V(N2)-V(VSS)) }
BMNB X N2 I={ (IF(V(B)>vthr,((V(B)-vthr)/(vsup-vthr))*((V(B)-vthr)/(vsup-vthr))/ron,0)+gm0)*(V(X)-V(N2)) }
BMPY Y VDD I={ (IF((vsup-V(X))>vthr,((vsup-V(X)-vthr)/(vsup-vthr))*((vsup-V(X)-vthr)/(vsup-vthr))/ron,0)+gm0)*(V(Y)-V(VDD)) }
BMNY Y VSS I={ (IF(V(X)>vthr,((V(X)-vthr)/(vsup-vthr))*((V(X)-vthr)/(vsup-vthr))/ron,0)+gm0)*(V(Y)-V(VSS)) }
BMPK X VDD I={ (IF((vsup-V(Y))>vthr,((vsup-V(Y)-vthr)/(vsup-vthr))*((vsup-V(Y)-vthr)/(vsup-vthr))/ron,0)+gm0)*(V(X)-V(VDD)) }
BMNK X VSS I={ (IF(V(Y)>vthr,((V(Y)-vthr)/(vsup-vthr))*((V(Y)-vthr)/(vsup-vthr))/ron,0)+gm0)*(V(X)-V(VSS)) }
Rf_N1 N1 VSS {rfloat}
Cn_N1 N1 VSS {cint}
Rf_N2 N2 VSS {rfloat}
Cn_N2 N2 VSS {cint}
Rf_X X VSS {rfloat}
Cn_X X VSS {cint}
Rf_Y Y VSS {rfloat}
Cn_Y Y VSS {cint}
.ends
